US07163940B2
A mixture of 7-chloro-2-(4-fluorophenyl)-3-(4-pyridinyl)pyrazolo[1,5-α]pyridine (100 mg) and imidazole (5 eq.) in dimethylsulfoxide (2 mL) in sealed tube was heated at 120° C. overnight. The mixture was evaporated to dryness and purified by preparative thin layer chromatography to give 2-(4-fluorophenyl)-7-(1H-imidazol-1-yl)-3-pyridin-4-ylpyrazolo[1,5-α]pyridine. 1H NMR (CDCl3): δ 8.65 (d, 2H, J=5,6 Hz), 7.96 (s, 1H), 7.60 (d, 1H, J=9.5 Hz), 7.44–7.47 (m, 2H), 7.34–7.38 (m, 4H), 7.28 (d, 2H, J=5.7 Hz), 7.02 (m, 2H); MS m/z 356 (M+1).

reactant | 7-chloro-2-(4-fluorophenyl)-3-(4-pyridinyl)pyrazolo[1,5-α]pyridine | 100 mg | ClC1=CC=CC=2N1N=C(C2C2=CC=NC=C2)C2=CC=C(C=C2)F | C18H11ClFN3
reactant | imidazole | 5 eq. | N1C=NC=C1 | C3H4N2
solvent | dimethylsulfoxide | 2 mL | CS(=O)C | C2H6OS
product | 2-(4-fluorophenyl)-7-(1H-imidazol-1-yl)-3-pyridin-4-ylpyrazolo[1,5-α]pyridine | FC1=CC=C(C=C1)C1=NN2C(C=CC=C2N2C=NC=C2)=C1C1=CC=NC=C1 | C21H14FN5
